US08404719B2
(8aR)-2-{[3-({4-[bis(4-fluorophenyl)methyl]piperazin-1-yl}carbonyl)phenyl]sulfonyl}octahydropyrrolo[1,2-α]pyrazine
To 3-(chlorosulfonyl)benzoyl chloride (0.359 g, 1.5 mmol) in anhydrous dichloromethane (40 mL) was added 1-(bis(4-fluorophenyl)methyl)piperazine (0.433 g, 1.5 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.64 g, 6 mmol) was added. The mixture was stirred at room temperature overnight. Then (R)-octahydropyrrolo[1,2-α]pyrazine (0.208 g, 1.65 mmol) was added. The mixture was stirred at reflux for 20 minutes, and then at room temperature for 3 days. Methanol (5 mL) was added, the mixture was stirred for 20 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate/methanol=20:1) to give the titled compound: 1H NMR (500 MHz, DMSO-d6) δ ppm 1.09 (m, 1H), 1.55 (m, 2H), 1.72 (m, 1H), 1.90 (m, 4H), 2.10 (m, 1H), 2.20-2.50 (m, 6H), 2.90 (m, 2H), 3.58-3.78 (m, 4H), 4.42 (s, 1H), 7.12 (m, 4H), 7.42 (m, 4H), 7.71 (m, 3H), 7.80 (m, 1H); MS (ESI) m/z 581 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.5 mmol, 0.359 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | 1-(bis(4-fluorophenyl)methyl)piperazine | 1.5 mmol, 0.433 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | 6 mmol, 0.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 1.65 mmol, 0.208 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | Methanol | 5 mL | CO | CH4O
product | (8aR)-2-{[3-({4-[bis(4-fluorophenyl)methyl]piperazin-1-yl}carbonyl)phenyl]sulfonyl}octahydropyrrolo[1,2-α]pyrazine | FC1=CC=C(C=C1)C(N1CCN(CC1)C(=O)C=1C=C(C=CC1)S(=O)(=O)N1C[C@@H]2N(CC1)CCC2)C2=CC=C(C=C2)F | C31H34F2N4O3S
